US08048909B2
1-[1-(2,3-Dihydro-1-benzofuran-5-ylsulfonyl)-5-phenyl-1H-pyrrol-3-yl]-N-methylmethanamine 0.5 oxalic acid salt
To a solution (5 mL) of tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate (28 mg) in N,N-dimethylformamide was added sodium hydride (60% in oil, 40 mg) at room temperature and the mixture was stirred for 30 min. 2,3-Dihydro-1-benzofuran-5-sulfonyl chloride (65 mg) was added at room temperature and the mixture was stirred for 1 hr. To the reaction mixture was added ice water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→4:1), and dissolved in methanol (10 mL). 4 mol/l Hydrogen chloride-ethyl acetate solution (1.5 mL) was added and the mixture was stirred at 65° C. for 30 min. The reaction mixture was concentrated under reduced pressure to give a free form, which was crystallized from ethyl acetate as a 0.5 oxalic acid salt to give the title compound as pale-red crystals (yield 26 mg, 63%).

reactant | tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate | 5 mL, 28 mg | CN(C(OC(C)(C)C)=O)CC1=CNC(=C1)C1=CC=CC=C1 | C17H22N2O2
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | 2,3-Dihydro-1-benzofuran-5-sulfonyl chloride | 65 mg | O1CCC2=C1C=CC(=C2)S(=O)(=O)Cl | C8H7ClO3S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[1-(2,3-Dihydro-1-benzofuran-5-ylsulfonyl)-5-phenyl-1H-pyrrol-3-yl]-N-methylmethanamine | yield 26 mg, 63% | O1CCC2=C1C=CC(=C2)S(=O)(=O)N2C=C(C=C2C2=CC=CC=C2)CNC | C20H20N2O3S
